US06025375
To a solution of ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate (400 mg) in ethanol (20 ml) was added 1N-sodium hydroxide solution (0.83 ml). After being stirred for 8 hours, the solvent was evaporated in vacuo. The residue was triturated in ether to give sodium [3-[[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate (350 mg).

reactant | ethyl [3-[[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
reactant | sodium hydroxide | 0.83 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | sodium [3-[[2-(4,5-diphenyloxazol-2-yl)-2-cyclopenten-1-yl]methyl]phenoxy]acetate | 350 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCC1)CC=1C=C(OCC(=O)[O-])C=CC1.[Na+] | InChI=1S/C29H25NO4.Na/c31-26(32)19-33-24-15-7-9-20(18-24)17-23-14-8-16-25(23)29-30-27(21-10-3-1-4-11-21)28(34-29)22-12-5-2-6-13-22;/h1-7,9-13,15-16,18,23H,8,14,17,19H2,(H,31,32);/q;+1/p-1
